US05004753
4.56 Grams of ethyl (E)-6-chloro-2-fluoro-2-hexenoate was dissolved in 50 ml of hexane under a nitrogen atmosphere. The resulting solution was cooled to -78° C. in a dry ice-acetone bath, and 24 ml of diisobutylaluminum hydride (as 1.0 M hexane solution) was added dropwise. After addition, the solution was stirred at -78° C. for 1 hour. The reaction solution was poured into cooled 5% hydrochloric acid, and after separating the hexane layer, the aqueous layer was extracted twice with ether. The ether extracts were combined with the above hexane layer, and this mixture was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was then removed under reduced pressure to obtain 2.35 g of 6-chloro-2-fluoro-2-hexenal [E form/Z form (6.8:1) mixture by NMR determination].

reactant | ethyl (E)-6-chloro-2-fluoro-2-hexenoate | ClCCC/C=C(\C(=O)OCC)/F | C8H12ClFO2
reactant | diisobutylaluminum hydride | 1.0 M, 24 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrochloric acid | Cl | ClH
solvent | hexane | 50 ml | CCCCCC | C6H14
product | 6-chloro-2-fluoro-2-hexenal | 2.35 g | ClCCCC=C(C=O)F | C6H8ClFO
